US06136455
Dimethyl terephthalate, dimethyl isophthalate, ethylene glycol, bisphenol A-ethylene oxide (2 mols) adduct, and manganese acetate were deposit into a reactor installed with a heater, a stirrer, a rectification column, a pressure-reducing device and a thermometer, as in Table 17, and gradually heated in a nitrogen atmosphere up to a temperature falling between 160 and 220° C. over a period of about 4 hours to effect interesterification, while removing ethanol through distillation. Then, this was subjected to polycondensation under a reduced pressure of from 0.5 to 5.0 mmHg at 260° C. for about 2 hours. Thus were obtained bisphenol A-added polyester resins b-1 to b-4 as in Table 17. Each of the thus-obtained, bisphenol A-added polyester resins was dissolved in a mixed solvent of cyclohexanone/Solvesso 150 (50/50, by weight) to prepare a resin solution having a nonvolatile content of 40%. The molecular weight of each bisphenol A-added polyester resin being produced was controlled by varying the polycondensation time. The number-average molecular weight of each resin was measured in terms of polystyrene, through gel permeation chromatography.

reactant | Dimethyl terephthalate | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | dimethyl isophthalate | C(C1=CC(C(=O)OC)=CC=C1)(=O)OC | C10H10O4
reactant | bisphenol A ethylene oxide | 2 mols | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O.C1CO1
catalyst | manganese acetate | C(C)(=O)[O-].[Mn+2].C(C)(=O)[O-]
solvent | ethylene glycol | C(CO)O | C2H6O2
product | bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
